US07893060B2
2-Methyl-4H-thiazolo[5,4-d]pyrimidine-5,7-dione
To a suspension of 2-methyl-5-ureido-thiazole-4-carboxylic acid ethyl ester (21.0 g, 0.079 mol) in iPrOH (300 mL) was added an aqueous solution of NaOH (3 M, 26 mL, 0.078 mol) at 80° C. The thick white suspension was heated at 80° C. for 45 min, then diluted with H2O and cooled to 0° C. The reaction mixture was acidified to pH 3 and the precipitate collected by filtration. The white solid was washed with H2O and dried in vacuo at 60° C. for 17 h to give the title compound as a white solid (12.3 g, 83%).

reactant | 2-methyl-5-ureido-thiazole-4-carboxylic acid ethyl ester | 0.079 mol, 21.0 g | C(C)OC(=O)C=1N=C(SC1NC(=O)N)C | C8H11N3O3S
reactant | NaOH | 0.078 mol, 3 M, 26 mL | [OH-].[Na+]
solvent | iPrOH | 300 mL | CC(C)O | C3H8O
solvent | H2O | O | H2O
product | 2-Methyl-4H-thiazolo[5,4-d]pyrimidine-5,7-dione | 12.3 g, 83% | CC=1SC=2NC(NC(C2N1)=O)=O | C6H5N3O2S
